US04710573
1-Ethyl-3-(1-methyl-4-piperidinyl)-1H-indazole hydrobromide
To a stirred suspension of 0.86 g of sodium hydride (50% oil dispersion) in 50 ml of dimethylformamide was added, dropwise, 3.0 g of 3-(1-methyl-4-piperidinyl)-1H-indazole in 15 ml of hot dimethylformamide. The reaction mixture was stirred at ambient temperature and 1.34 ml of ethyl bromide in 10 ml of dimethylformamide was added, dropwise. The reaction was stirred overnight at ambient temperature and poured into water. The aqueous suspension was extracted with ethyl acetate (2X, 100 ml). The extracts were combined, washed with water, dried over anhydrous magnesium sulfate, and the solvent evaporated in vacuo to yield an oil. The oil was dissolved in a minimum amount of ethanol-ether, and a saturated solution of ether-hydrogen bromide was added. The salt was recrystallized from ethanol-ether to yield 2.4 g (52.8%) of product, mp 240°-242° C.

reactant | sodium hydride | 0.86 g | [H-].[Na+]
reactant | 3-(1-methyl-4-piperidinyl)-1H-indazole | 3.0 g | CN1CCC(CC1)C1=NNC2=CC=CC=C12 | C13H17N3
reactant | ethyl bromide | 1.34 ml | C(C)Br | C2H5Br
reactant | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-Ethyl-3-(1-methyl-4-piperidinyl)-1H-indazole hydrobromide | 2.4 g, 52.8% | Br.C(C)N1N=C(C2=CC=CC=C12)C1CCN(CC1)C | InChI=1S/C15H21N3.BrH/c1-3-18-14-7-5-4-6-13(14)15(16-18)12-8-10-17(2)11-9-12;/h4-7,12H,3,8-11H2,1-2H3;1H
